US08466290B2
2-(4-fluorophenyl)-N-[5-(2-furyl)-1,3,4-oxadiazol-2-yl]-4-quinolinecarboxamide (compound Ia-46)
Commercially available 2-amino-5-(2-furyl)-1,3,4-oxadiazole (57 mg, 0.38 mmol), HOAt (51 mg, 0.37 mmol), HATU (143 mg, 0.38 mmol), and N,N-diisopropylethylamine (87 μL, 0.50 mmol) were added to a DMF (2 mL) solution of commercially available 2-(4-fluorophenyl)-4-quinolinecarboxylic acid (67 mg, 0.25 mmol), and the mixture was stirred at room temperature for 3 days. To the reaction solution, water was added, and the deposited solid was collected by filtration, and washed with water and then with methanol and methylene chloride in this order. The obtained solid was dried to obtain the title compound (61 mg, 0.15 mmol).

reactant | 2-amino-5-(2-furyl)-1,3,4-oxadiazole | 0.38 mmol, 57 mg | NC=1OC(=NN1)C=1OC=CC1 | C6H5N3O2
reactant | HOAt | 0.37 mmol, 51 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | HATU | 0.38 mmol, 143 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.50 mmol, 87 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-(4-fluorophenyl)-4-quinolinecarboxylic acid | 0.25 mmol, 67 mg | FC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C16H10FNO2
solvent | water | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-(4-fluorophenyl)-N-[5-(2-furyl)-1,3,4-oxadiazol-2-yl]-4-quinolinecarboxamide | 0.15 mmol, 61 mg | FC1=CC=C(C=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)NC=1OC(=NN1)C=1OC=CC1 | C22H13FN4O3
